US05440036
2,2-Dimethyl-4-trifluoroacetylamino-6-trifluoromethyl-1,4-benzoxazine (Compound No. 4)
4-Amino-2,2-dimethyl-6-trifluoromethyl-1,4-benzoxazine (123 mg) was dissolved in 1.5 ml of pyridine, followed by the dropwise addition of 0.085 ml of trifluoroacetic anhydride under ice cooling. The reaction mixture so obtained was stirred for 1.5 hours at room temperature. Iced water was added, followed by extraction with ethyl ether. The ethyl ether layer was washed with water and then dried over magnesium sulfate. The ethyl ether was distilled off and the residue was purified by chromatography on a silica gel column, whereby 157 mg of Compound No. 4 were obtained (yield: 92%).

reactant | 4-Amino-2,2-dimethyl-6-trifluoromethyl-1,4-benzoxazine | 123 mg | NN1CC(OC2=C1C=C(C=C2)C(F)(F)F)(C)C | C11H13F3N2O
reactant | trifluoroacetic anhydride | 0.085 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-Dimethyl-4-trifluoroacetylamino-6-trifluoromethyl-1,4-benzoxazine | yield: 92% | CC1(OC2=C(N(C1)NC(C(F)(F)F)=O)C=C(C=C2)C(F)(F)F)C | C13H12F6N2O2
